vdr_parallel_network - fault test
I1 0 T DC 0.012
C1 T 0 6.33e-06
R2 T 0 12010.96266
R3 T 0 11962.059508
.op
.control
run
print v(T)
print @r2[i] @r3[i]
print @i1[i]
.endc
.end
